* LM3302 VOLTAGE COMPARATOR "MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS VERSION 4.03 ON 03/09/90 AT 09:21
* REV (N/A)
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OPEN COLLECTOR OUTPUT
*                | | | | |
.SUBCKT LM3302   1 2 3 4 5
*
  F1    9  3 V1 1
  IEE   3  7 DC 100.0E-6
  VI1  21  1 DC .75
  VI2  22  2 DC .75
  Q1    9 21  7 QIN
  Q2    8 22  7 QIN
  Q3    9  8  4 QMO
  Q4    8  8  4 QMI
.MODEL QIN PNP(IS=800.0E-18 BF=2.000E3)
.MODEL QMI NPN(IS=800.0E-18 BF=1002)
.MODEL QMO NPN(IS=800.0E-18 BF=1000 CJC=1E-15 TR=807.4E-9)
  E1   10  4  9  4  1
  V1   10 11 DC 0
  Q5    5 11  4 QOC
.MODEL QOC NPN(IS=800.0E-18 BF=1.014E3 CJC=1E-15 TF=894.9E-12 TR=543.8E-9)
  DP    4  3 DX
  RP 3  4 46.3E3
.MODEL DX  D(IS=800.0E-18)
*
.ENDS

.SUBCKT LM3302_IMPL  OUT1 -IN1 +IN1 -VCC +IN2 -IN2 OUT2 OUT3 -IN3 +IN3 +VCC +IN4 -IN4 OUT4
XSUB1 +IN1 -IN1 +VCC -VCC OUT1 LM3302
XSUB2 +IN2 -IN2 +VCC -VCC OUT2 LM3302
XSUB3 +IN3 -IN3 +VCC -VCC OUT3 LM3302
XSUB4 +IN4 -IN4 +VCC -VCC OUT4 LM3302
.ENDS

